* AD816an Spice Macro-model                 
* Description: Amplifier
* Generic Desc: Quad high speed high current amplifier
* Developed by: SMR
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (03/1997)
* Copyright 1997, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*	
* Not Modeled:
*    Distortion is not characterized
*
* Parameters modeled include:
*    Closed loop gain and phase vs frequency. 
*    This model accurately reflects small and large signal closed 
*    loop gain vs bw. It was written using fig 16 and fig 32 from the rev 0 datasheet as a reference.
*    output clamping voltage and current
*    Slew rate
*    Output currents are reflected to V supplies
*    Input referred voltage and current noise 
*    Vos and Ibias match the specs given in the data-sheet. They do not, however, vary with Vcm in.
*
* END Notes
*
* Node assignments
*
*                 Receiver     Driver          
*
*                n-inv input  n-inv input
*                |            |
*                | inv input  |  inv input   +supply
*                |  |         |   |          |
*                |  | output  |   | output   | -supply
*                |  |  |      |   |   |      |   |
.SUBCKT AD816an  1  2  61     101 102 124    99 50


* RECEIVER SECTION

* input stage *

r1 1 2 300k
cin1 1 98 1.5e-12
cin2 2 98 1.5e-12
ib1 99 1 5e-6
ib2 99 2 5e-6
fn 99 2 vn4 1
q1 5 57 6 qn
q2 7 2 8 qn
eosr 57 1 poly(2) (23,98) (84,98) 7.5e-3 1.59e-9 1  
r3 99 5  13.27
r4 99 7  13.27
r5 6 9  10.67
r6 8 9  10.67
c2 5 7 65pf
itail 9 50 20e-3

** v noise generation **

vn1 80 98 0
dn2 80 98 dn1

rn1 83 98 1.1e-3
vn3 83 98 0

fn2 84 98 vn1 1
fn1 84 98 vn3 1
rn2 84 98 1

** i noise generation **

vn4 87 98 0
rn5 87 98 4k

hn2 35 98 vn4 1
rn6 35 98 1


* gain stage,clamping - open loop gain=76dB * 
* pd at 100khz *

gm1 99 10 poly(1) 7 5 0 0.075 0 -0.6
gm2 50 10 poly(1) 7 5 0 0.075 0 -0.6
r7  99 10  79617                   
r8  10 50  79617
c3  99 10 40pf
c4  10 50 40pf
vcl1 99 25 3.3
vcl2 26 50 3.3
d1 10 25 dx
d2 26 10 dx

***** common mode reference

ecmref  98 0 poly(2) 99 0 50 0 0 0.5 0.5
einref1 18 0 poly(2) 1 0 2 0 0 0.5 0.5

***** vcm generation

ecm1 19 98 18 98 2000
rvcm1 19 20 1999
rvcm2 20 21 1
lcm1 21 98 3.18e-6

ecm2 22 98 20 98 37037
rvcm3 22 23 37036
rvcm4 23 24 1
lcm2 24 98 59e-6

***** buffer to output stage

gbuf 98 17 10 98 0.002
rbufr 98 17 500

***** current mirroring on supplies
***** includes Iout driver and rvcr

fo1 98 210 vcd1 1
fo2 98 210 vcd2 1
do1 210 211 dx
do2 212 210 dx
vi1 211 98 0
vi2 98 212 0
fsy 99 50 poly(2) vi1 vi2 0.032 1 1

***** receiver output stage

go3 60 99 99 17 1
go4 50 60 17 50 1
r03 60 99 1
r04 60 50 1
vcd1 60 62 0
lo1 62 61 1e-20
rlr 61 98 1e6
do5 17 70 dx
do6 71 17 dx
vo1 70 60 -0.759
vo2 60 71 -0.759


* DRIVER SECTION

* INPUT STAGE

v101   102 108 0
i101   99 105 100e-6
i102   104 50 100e-6
q101   50 103 105 qp1
q102   99 103 104 qn1
q103   99 105 108 qn1
q104   50 104 108 qp1
r103a  99 105 20k
r104a  50 104 20k

* input error sources
 
fn105   99  101  poly(2) vn103 vn104 0 1 1
fn106   99  102  poly(2) vn103 vn104 0 10 10
ib101   99  102  20.135e-6
ib102   99  103  2e-6
eosd    103 101 poly(1) (134,98) 5e-3 1
cin101  99  103     1.4e-12
cin102  50  103     1.4e-12

* first gain stage and dominant pole

r105   112 99  2e6
r106   112 50  2e6
c103   112 99  2.7e-12
c104   112 50  2.7e-12
f101   112 99 poly(1) v101 0 1 40   
f102   112 50 poly(1) v101 0 1 40
v103   99 113  3.3
v104   114 50  3.3
d103   112 113 dx
d104   114 112 dx

* v noise generator

dn101 130 98 dn2
vn101 130 98 0 

rn102 132 98 5.3e-3
vn102 132 98 0

fn101 134 98 vn101 1.
fn102 134 98 vn102 1
rn201 134 98 1

* i noise generation

dn103 140 98 dn3
vn103 140 98 0

rn104 142 98 5.5e3
vn104 142 98 0

fn103 135 98 vn103 1000  
fn104 135 98 vn104 1000
rn105 135 98 1

* buffer stage

g113 98 117 112 98 1e-2    
cbufd 117 98 15pf
rbufd 117 98 100

* output stage

r115 123 99   2
r116 123 50   2
vcd2 123 125  0
l101 125 124  1e-20
rld  124 98   1e6
g111 99 123   117 99  0.5
g112 123 50   50 117  0.5
v105 123 119  -0.05
v106 120 123  -0.05
d105 117 119   dx
d106 120 117   dx


.model qn npn(kf=1e-30 af=0 bf=1e3 is=1e-15)
.model qn1 npn(kf=1e-30 af=0 bf=1e3 is=1e-15)
.model qp1 pnp(kf=1e-30 af=0 bf=1e3 is=1e-15)
.model dx d(kf=1e-30 af=0 is=1e-15)
.model dn1  d(kf=7e-5 af=0.5 is=1e-15)
.model dn2  d(kf=0.5e-12 af=0 is=1e-15)
.model dn3  d(kf=5e-19 af=0 is=1e-15)
.ends ad816an





